US09062070B2
Step A: tert-butyl(3S)-3-(hydroxymethyl)-4-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate
4-Methyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one (3.00 g, 15.8 mmol) and (S)-4-N-BOC-2-hydroxymethylpiperazine (5.12 g. 23.7 mmol) were suspended in ethanol (10 mL) in a 20 mL microwave tube. The reaction mixture was degassed and heated in a microwave apparatus for 30 min at 150° C. The reaction mixture was evaporated to dryness, then chromatographed through a 330 g Redi-sep column and eluted with a solvent system of 1:1 EtOAc/hexane to 100% EtOAc to yield the title compound. LC-MS: M+1=407.

reactant | 4-Methyl-5-oxiran-2-yl-2-benzofuran-1(3H)-one | 15.8 mmol, 3.00 g | CC1=C(C=CC=2C(OCC21)=O)C2OC2 | C11H10O3
reactant | (S)-4-N-BOC-2-hydroxymethylpiperazine | 23.7 mmol, 5.12 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl(3S)-3-(hydroxymethyl)-4-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | OC[C@@H]1CN(CCN1CC(C1=C(C2=C(C(OC2)=O)C=C1)C)O)C(=O)OC(C)(C)C | C21H30N2O6
